US06653489B2
Into a similar device to that used in Example 7 were charged 1.38 g (5.0 mmol) of tetrahydropyranyl-4-p-toluenesulfonate synthesized in Example 6 and having a purity of 93% and 3.18 g (26.0 mmol) of benzylmethylamine, and the mixture was reacted at 70° C. for 4 hours and further at 90° C. for 5 hours. After completion of the reaction, the resulting reaction mixture was concentrated under reduced pressure and purified by silica gel column chromatography (Filler: Wako gel C-200 (available from Wako Junyaku Co.), Eluent: chloroform/methanol (=9/1 (volume ratio)) to obtain 0.72 g (yield: 70%) of 4-benzylmethylaminotetrahydropyrane having a purity of 90% (areal percentage according to high performance liquid chromatography) as a pale yellowish liquid.

reactant | benzylmethylamine | 26.0 mmol, 3.18 g | C(C1=CC=CC=C1)CN | C8H11N
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 4-benzylmethylaminotetrahydropyrane | 0.72 g, yield: 70% | C(C1=CC=CC=C1)CNC1CCOCC1 | C13H19NO
